US05512575
d. 1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidinone
To a cooled solution (-78° C.) of oxalyl chloride (3.06 mL, 35.1 mmol, 2 eq) in methylene chloride (100 mL) under nitrogen was added distilled dimethylsulfoxide (5.00 mL, 70.2 mmol, 4 eq). After 10 min 1-(9,10-dihydro-9,10-methanoanthracen-9-ylmethyl) piperidin-4-ol (described above) (17.5 mmol) was added as a methylene chloride solution (10 mL). The reaction was stirred at -78° C. for 30 min prior to the addition of triethylamine (19.6 mL, 140 mmol, 8 eq). The cooling bath was removed and the reaction warmed to room temperature over 1.5 h. The reaction mixture was poured into 2.5N NaOH (100 mL) and the aqueous phase extracted with methylene chloride (3×100 mL). Combined organic extracts were dried over anhydrous magnesium sulfate, filtered, and reduced to an oil. The crude reaction mixture was purified by flash chromatography over silica gel (400 mL, eluent:20% ethyl acetate in hexane) to yield the title compound in 80% yield as a white solid. TLC analysis (Rf 0.31, 2% methanol in methylene chloride). MS (Cl, CH4) m/z 304 (M+1,100), 332 (M+29,21)

reactant | oxalyl chloride | 35.1 mmol, 3.06 mL, 2 eq | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylsulfoxide | 70.2 mmol, 5.00 mL, 4 eq | CS(=O)C | C2H6OS
reactant | 1-(9,10-dihydro-9,10-methanoanthracen-9-ylmethyl) piperidin-4-ol | 17.5 mmol | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)O | C21H23NO
reactant | triethylamine | 140 mmol, 19.6 mL, 8 eq | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(9,10-Dihydro-9,10-methanoanthracen-9-ylmethyl)-4-piperidinone | 80% yield | C1=CC=CC=2C3C4=CC=CC=C4C(C12)(C3)CN3CCC(CC3)=O | C21H21NO
